US04080502
29.3 g (0.1 mol) of 2,4-dioxo-hexahydro-1,5-dicyclohexyl-3-methyl-s-triazine are initially introduced into 40 ml of methylene chloride and 24 g (0.15 mol) of bromine are added dropwise. The temperature is kept at 20° C to 30° C by cooling. The orange-red precipitate which has separated out is filtered off and recrystallised from isopropanol. 25 g (67%) of 2,4-dioxo-1,2,3,4-tetrahydro-1,5-dicyclohexyl-3-methyl-s-triazinium bromide of melting point 250° C are obtained.

reactant | 2,4-dioxo-hexahydro-1,5-dicyclohexyl-3-methyl-s-triazine | 0.1 mol, 29.3 g | O=C1N(CN(C(N1C)=O)C1CCCCC1)C1CCCCC1 | C16H27N3O2
reactant | bromine | 0.15 mol, 24 g | BrBr | Br2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dioxo-1,2,3,4-tetrahydro-1,5-dicyclohexyl-3-methyl-s-triazinium bromide | 25 g, 67% | [Br-].O=C1[NH+](CN(C(N1C)=O)C1CCCCC1)C1CCCCC1 | InChI=1S/C16H27N3O2.BrH/c1-17-15(20)18(13-8-4-2-5-9-13)12-19(16(17)21)14-10-6-3-7-11-14;/h13-14H,2-12H2,1H3;1H
